US07795267B2
1,1-Dicyclohexyl-hexahydro-7-(triphenylmethyl)-3H-oxazolo[3,4-a]pyrazin-3-one
1,1-Dimethylethyl 4-(triphenylmethyl)-1-piperazine carboxylate (1.0 g, 2.3 mmol) and tetramethylethylenediamine (1.0 g, 8.6 mmol) were dissolved in tetrahydrofuran (10 mL), which was cooled to −78° C. A 1.0 M solution of sec-butyllithium in hexane and cyclohexane (7.2 mL, 7.2 mmol) was added thereto, and the mixture was stirred for 2 hours and the temperature was elevated to −50° C. After cooling to −78° C. again, a solution of dicyclohexyl ketone (1.1 g, 5.9 mmol) in tetrahydrofuran (10 mL) was added dropwise thereto, and the mixture was stirred for 15 hours while elevating the temperature to room temperature. To the reaction solution was added an aqueous saturated ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=7:3) to obtain the title compound (0.95 g, yield 74%).

reactant | 1,1-Dimethylethyl 4-(triphenylmethyl)-1-piperazine carboxylate | 2.3 mmol, 1.0 g | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H32N2O2
reactant | tetramethylethylenediamine | 8.6 mmol, 1.0 g | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 7.2 mmol, 7.2 mL | C1CCCCC1 | C6H12
reactant | dicyclohexyl ketone | 5.9 mmol, 1.1 g | C1(CCCCC1)C(=O)C1CCCCC1 | C13H22O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1,1-Dicyclohexyl-hexahydro-7-(triphenylmethyl)-3H-oxazolo[3,4-a]pyrazin-3-one | 0.95 g, yield 74% | C1(CCCCC1)C1(OC(N2C1CN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C2CCCCC2 | C37H44N2O2
